US07482358B2
Production of (5R)-2-(4-cyano-2-pyridyl)-4,4-bis(4-fluorophenyl)-5-hydroxymethyl-2-imidazoline
2,4-Dicyanopyridine (601 mg) and ytterbium trifluoromethanesulfonate (289 mg) were added to a solution of (2R)-1,1-bis(4-fluorophenyl)-3-(methoxymethoxy)-1,2-propanediamine (1.50 g) in toluene (30 mL), and the mixture was refluxed under stirring for 2 days. The reaction mixture was concentrated in vacuo, and then the residue was dissolved in tetrahydrofuran (20 mL). 6N Hydrochloric acid (10 mL) was added to the solution, and then the mixture was stirred at room temperature for 24 hours. The reaction mixture was concentrated in vacuo, and then the residue was purified by silica gel column chromatography (C-300; hexane: ethyl acetate=2:1) to give the objective compound (385 mg).

reactant | 2,4-Dicyanopyridine | 601 mg | C(#N)C1=NC=CC(=C1)C#N | C7H3N3
reactant | ytterbium trifluoromethanesulfonate | 289 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | (2R)-1,1-bis(4-fluorophenyl)-3-(methoxymethoxy)-1,2-propanediamine | 1.50 g | FC1=CC=C(C=C1)C([C@H](COCOC)N)(N)C1=CC=C(C=C1)F | C17H20F2N2O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (5R)-2-(4-cyano-2-pyridyl)-4,4-bis(4-fluorophenyl)-5-hydroxymethyl-2-imidazoline | 385 mg | C(#N)C1=CC(=NC=C1)C=1N[C@H](C(N1)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CO | C22H16F2N4O
